US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with 3-methylmercaptoaniline to yield 2-[(3-methylmercaptophenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 3-methylmercaptoaniline | CSC=1C=C(N)C=CC1 | C7H9NS
product | 2-[(3-methylmercaptophenyl)amino]phenylacetic acid | CSC=1C=C(C=CC1)NC1=C(C=CC=C1)CC(=O)O | C15H15NO2S
